US07893058B2
Step 3: 4-(5-Bromo-imidazo[1,2-a]pyrazin-8-ylamino)-2-methoxy-N-(6-methylpyridin-3-ylmethyl) benzamide
5,8-dibromoimidazo[1,2-a]pyrazine (285 mg, 1.03 mmol) and 4-amino-2-methoxy-N-[(6-methylpyridin-3-yl)methyl]benzamide (280 mg, 1.03 mmol) are stirred in iPrOH (5 mL) and HBr (48% aq., 380 μL) is added. The mixture is heated at reflux for 24 hours. The cooled suspension is poured into NaHCO3 (sat. aq., 25 mL) and water (25 mL) and extracted with CDCl3 (3×40 mL). The extracts are dried over MgSO4 and evaporated. The residue is purified by column chromatography, eluting with 10% -20% DCM/MeOH to afford the title compound as a pale yellow solid (200 mg, 0.43 mmol).

reactant | 5,8-dibromoimidazo[1,2-a]pyrazine | 1.03 mmol, 285 mg | BrC1=CN=C(C=2N1C=CN2)Br | C6H3Br2N3
reactant | 4-amino-2-methoxy-N-[(6-methylpyridin-3-yl)methyl]benzamide | 1.03 mmol, 280 mg | NC1=CC(=C(C(=O)NCC=2C=NC(=CC2)C)C=C1)OC | C15H17N3O2
reactant | HBr | 380 μL | Br | BrH
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | iPrOH | 5 mL | CC(C)O | C3H8O
solvent | water | 25 mL | O | H2O
product | 4-(5-Bromo-imidazo[1,2-a]pyrazin-8-ylamino)-2-methoxy-N-(6-methylpyridin-3-ylmethyl) benzamide | 0.43 mmol, 200 mg | BrC1=CN=C(C=2N1C=CN2)NC2=CC(=C(C(=O)NCC=1C=NC(=CC1)C)C=C2)OC | C21H19BrN6O2
